US08198296B2
Methyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-7-carboxylate (1.62 g, 5.72 mmol) was dissolved in a 2:1:2 mixture of THF/water/methanol (25 mL), and lithium hydroxide monohydrate (0.721 g, 17.2 mmol) was added. The reaction mixture was stirred at 30° C. for 16 h. The volatile solvents were removed by rotary evaporation, and the residue was acidified with 2 N hydrochloric acid and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give 1.53 g (100% crude yield) of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-7-carboxylic acid, as a colorless solid (1H NMR (CDCl3): δ 3.95-3.8 (m, 2H), 2.85-2.75 (m, 2H), 2.60-2.47 (m, 1H), 2.20-2.12 (m, 2H), 2.0-1.85 (m, 4H), 1.60-1.70 (m, 2H), 1.41 (s, 9H); (LC-MS (MH+): 270).

reactant | Methyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-7-carboxylate | 5.72 mmol, 1.62 g | C(C)(C)(C)OC(=O)N1CC2CC(CC(C1)C2)C(=O)OC | C15H25NO4
reactant | lithium hydroxide monohydrate | 17.2 mmol, 0.721 g | O.[OH-].[Li+]
solvent | THF water methanol | 25 mL | C1CCOC1.O.CO
product | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-7-carboxylic acid | 1.53 g | C(C)(C)(C)OC(=O)N1CC2CC(CC(C1)C2)C(=O)O | C14H23NO4
